US05210315
In a 50 ml flask equipped with a thermometer, a dropping funnel, and a stirrer were charged 7 ml of methylene chloride, 7 ml of water, 2 mmole of 1-methyl-1-cyclohexene, and 0.1 mmole of each of ruthenium catalysts shown in Table 2 below. To the mixture was added dropwise a 30% ethyl acetate solution of 1.52 g (6 mmole) of peracetic acid at room temperature over 2 hours while stirring on a magnetic stirrer. After the addition, the stirring was further continued at room temperature for 2 hours. The reaction mixture was extracted three times with 20 ml portions of methylene chloride. The extract was washed with 30 ml of a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residual crude product was purified by silica gel column chromatography using a 5:1 (by volume) mixture of n-hexane and ethyl acetate as an eluent to obtain 2-methyl-2-hydroxy-1-cyclohexanone. The percent yield of the product is shown in Table 2.

reactant | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
reactant | water | 7 ml | O | H2O
reactant | 1-methyl-1-cyclohexene | 2 mmole | CC1=CCCCC1 | C7H12
reactant | peracetic acid | 6 mmole, 1.52 g | C(C)(=O)OO | C2H4O3
catalyst | ruthenium | [Ru] | Ru
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2-hydroxy-1-cyclohexanone | CC1(C(CCCC1)=O)O | C7H12O2
